US07728150B2
4-(3-Fluoro-phenyl)-butyric acid
Hydrogenate a mixture of 4-(3-fluoro-phenyl)-but-3-enoic acid (22 g, 122 mmol), concentrated sulfuric acid (24 ml), and 5% palladium on carbon (3.58 g) in tetrahydrofuran (470 ml) at 60 psi at room temperature overnight. After filtration of the catalyst, remove most of the tetrahydrofuran by rotary evaporation, dilute the residue with ether, wash with water (2×), dry over anhydrous sodium sulfate, filter, and concentrate to obtain the title compound (22.50 g, 100%). NMR (400 MHz, CDCl3): δ 1.98 (m, 2H), 2.38 (t, 2H), 2.65 (t, 2H), 6.88 (m, 2H), 6.96 (d, 1H), 7.23 (m, 1H).

reactant | 4-(3-fluoro-phenyl)-but-3-enoic acid | 122 mmol, 22 g | FC=1C=C(C=CC1)C=CCC(=O)O | C10H9FO2
reactant | sulfuric acid | 24 ml | S(O)(O)(=O)=O | H2O4S
catalyst | palladium on carbon | 3.58 g | [Pd] | Pd
solvent | tetrahydrofuran | 470 ml | O1CCCC1 | C4H8O
product | 4-(3-Fluoro-phenyl)-butyric acid | 22.50 g, 100% | FC=1C=C(C=CC1)CCCC(=O)O | C10H11FO2
